US04353904
I. ortho-1,3,4-Oxadiazol-2-yl-phenol
90 g (0.6 mole) of salicylic acid hydrazide and 355.2 g (2.4 moles) of orthoformic acid ethyl ester are refluxed for 22 hours. Excess of the ester is distilled off and the solid residue is recrystallized from ethanol. 62.9 g of colorless crystals (64.7% of theory) are obtained; melting point 112°-113° C.

reactant | salicylic acid hydrazide | 0.6 mole, 90 g | C(C=1C(O)=CC=CC1)(=O)NN | C7H8N2O2
reactant | orthoformic acid ethyl ester | 2.4 moles, 355.2 g | C(C)OC(O)O | C3H8O3
product | ortho-1,3,4-Oxadiazol-2-yl-phenol | 62.9 g, 64.7% | O1C(=NN=C1)C1=C(C=CC=C1)O | C8H6N2O2
